US06956050B2
STEP 1. 4-cyano-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate and 4-cyanobenzenesulfonamide. MS (ESI) m/z 500 [M+H]+, 498 [M−H]−, 1H-NMR (DMSO-d6) δ 1.14 (3H, t, J=7.5 Hz), 2.61 (2H, q, J=7.5 Hz), 2.72 (2H, t, J=7.1 Hz), 3.10-3.30 (2H, m), 6.60 (1H, br), 7.19 (1H, t, J=7.1 Hz), 7.28-7.39 (6H, m), 7.70 (1H, s), 7.78 (2H, d, J=7.1 Hz), 8.00-8.08 (4H, m).

reactant | 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC([O-])=O
reactant | 4-cyanobenzenesulfonamide | C(#N)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S
product | 4-cyano-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C27H25N5O3S
